US05567700
(S)-N-[2-(3,4-Dichlorophenyl)-4-[4-(3-methyl-2-thioxoperhydropyrimidin-1-yl)piperidino]butyl]-N-methylbenzamide hydrochloride.
Using the procedure of Example 1, replacing 4-(2-oxo-1,3-oxazolidin-3-yl)piperidine with 4-(3-methyl-2-thioxoperhydropyrimidin-1-yl)piperidine, and N-[2-(3,4-dichlorophenyl)-4-oxobutyl]-N-methylbenzamide with the (S)-enantiomer, the title compound was obtained as a white solid; MS: m/z=547(M+1); Analysis for C28H36Cl2N4OS.1.70 HCl.0.10 (C2H5)2O: Calculated: C, 55.28; H, 6.32; N, 9.08; Found: C, 55.21; H, 6.37; N, 8.88.

reactant | 4-(3-methyl-2-thioxoperhydropyrimidin-1-yl)piperidine | CN1C(N(CCC1)C1CCNCC1)=S | C10H19N3S
reactant | N-[2-(3,4-dichlorophenyl)-4-oxobutyl]-N-methylbenzamide | ClC=1C=C(C=CC1Cl)C(CN(C(C1=CC=CC=C1)=O)C)CC=O | C18H17Cl2NO2
product | (S)-N-[2-(3,4-Dichlorophenyl)-4-[4-(3-methyl-2-thioxoperhydropyrimidin-1-yl)piperidino]butyl]-N-methylbenzamide hydrochloride | Cl.ClC=1C=C(C=CC1Cl)[C@@H](CN(C(C1=CC=CC=C1)=O)C)CCN1CCC(CC1)N1C(N(CCC1)C)=S | InChI=1S/C28H36Cl2N4OS.ClH/c1-31-14-6-15-34(28(31)36)24-12-17-33(18-13-24)16-11-23(22-9-10-25(29)26(30)19-22)20-32(2)27(35)21-7-4-3-5-8-21;/h3-5,7-10,19,23-24H,6,11-18,20H2,1-2H3;1H/t23-;/m1./s1
